US04704462
A solution of Rac-(2S,3S)-5-allyl-6-hydroxy-2-(3,4-dimethoxyphenyl)-3-methyl-2,3-dihydrobenzofuran (1.28 g) in ethyl acetate (30 ml) containing 10% palladium-on-charcoal (40 mg) was hydrogenated at 20 p.s.i. for 2 hours. The mixture was filtered and the filtrate was evaporated to give (2S,3S)-6-Hydroxy-2-(3,4-dimethoxyphenyl)-3-methyl-5-propyl-2,3-dihydrobenzofuran (1.2 g); n.m.r. (CDCl3): δ0.99 (t, CH2CH2CH3), 1.37 (d, CH3 --3), 1.65 (m, CH2CH2CH3), 2.55 (t, CH2CH2CH3), 3.38 (m, H-3), 3.90, 3.91 (s, s, 2OCH3), 4.69 (b, OH), 5.07 (d, J 9.0 Hz, H-2), 6.06-7.01 (Ar--H), 6.38 (s, H-7).

reactant | Rac-(2S,3S)-5-allyl-6-hydroxy-2-(3,4-dimethoxyphenyl)-3-methyl-2,3-dihydrobenzofuran | 1.28 g | C(C=C)C=1C(=CC2=C(C(C(O2)C2=CC(=C(C=C2)OC)OC)C)C1)O | C20H22O4
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | 40 mg | [Pd] | Pd
product | (2S,3S)-6-Hydroxy-2-(3,4-dimethoxyphenyl)-3-methyl-5-propyl-2,3-dihydrobenzofuran | 1.2 g | OC1=CC2=C([C@@H]([C@H](O2)C2=CC(=C(C=C2)OC)OC)C)C=C1CCC | C20H24O4
